US09029560B2
Preparation of N-ethyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine (CB25)
The title compound was prepared from tert-butyl ethyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB64), neutralized with aqueous sodium bicarbonate, and isolated as an orange solid (0.167 g, 98%, 80% pure): 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.17-8.06 (m, 2H), 7.87-7.63 (m, 2H), 7.37 (dt, J=8.0, 1.0 Hz, 2H), 7.34-7.28 (m, 2H), 3.21 (s, 2H), 3.14-2.97 (m, 4H), 1.84 (s, 1H), 0.87 (ddd, J=12.0, 8.9, 6.6 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.04; ESIMS m/z 377 ([M+H]+).

reactant | tert-butyl ethyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C(C)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H27F3N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-ethyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine | C(C)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N4O
